US07888364B2
5 g of 4-fluorobenzonitrile was used in Procedure Q with 2-mercaptoethanol to afford 4-(2-hydroxyethylthio)benzonitrile. 900 mg of 4-(2-hydroxyethylthio)benzonitrile was reacted via Procedure T to give 4-(2-hydroxyethylthio)benzoic acid. 1.0 g of 4-(2-hydroxyethylthio)benzoic acid was reacted via Procedure R to give 4-(2-hydroxyethylsulfonyl)benzoic acid. 80 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-hydroxyethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxyethylsulfonyl)benzamide. MS (Q1) 417.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 80 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(2-hydroxyethylsulfonyl)benzoic acid | OCCS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H10O5S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxyethylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)CCO)=O)C1=NC=CC=C1 | C20H17ClN2O4S
